US09216980B2
1-Ethyl-3-{3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl}-urea
A suspension of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine (91.6 mg, 0.256 mmol) in DCM (9.1 mL) was treated with pyridine (22.8 μL, 0.282 mmol) and ethylisocyanate (33.2 μL, 0.423 mmol) and then the reaction mixture was heated under reflux for 5 h. The cooled reaction mixture was treated with saturated sodium bicarbonate and diluted with 20% MeOH in DCM and water. The layers were separated, the aqueous phase extracted into 20% MeOH in DCM, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by preparative HPLC (0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as a yellow solid (34 mg, 31%). 1H NMR (DMSO-D6, 400 MHz): 9.66 (t, J=5.4 Hz, 1H), 9.19 (s, 1H), 8.96 (d, J=2.1 Hz, 1H), 8.91 (d, J=2.1 Hz, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 7.20 (s, 1H), 3.53-3.44 (m, 4H), 2.36 (m, 4H), 1.58-1.46 (m, 4H), 1.41 (m, 2H), 1.31-1.21 (m, 3H). LCMS (Method D): RT=8.06 min, M+H+=429.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-amine | 0.256 mmol, 91.6 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)N)N=C1 | C22H23N5
reactant | pyridine | 0.282 mmol, 22.8 μL | N1=CC=CC=C1 | C5H5N
reactant | ethylisocyanate | 0.423 mmol, 33.2 μL | C(C)N=C=O | C3H5NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 9.1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | 1-Ethyl-3-{3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl}-urea | 34 mg, 31% | C(C)NC(=O)NC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C25H28N6O
